* FQI20N06 60V N-CHANNEL DMOSFET ELECTRICAL PARAMETERS
*------------------------------------------------------------------------------------
.SUBCKT  FQI20N06  20  10  30
Rg     10    1    1
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS NMOS (VTO={3.78*{-0.00078*TEMP+1.0195}}  KP={14.5*{-0.00077*TEMP+1.01925}}
+  THETA=0.056    VMAX=7.8E4    LEVEL=3)
Cgs     1    3    425p
Rd     20    4    17.5m TC=0.0087
Dds     3    4    DDS
.MODEL     DDS    D(BV={60*{0.001*TEMP+0.975}}   M=0.5      CJO=145p     VJ=0.8)
Dbody   3   20    DBODY
.MODEL DBODY  D(IS=3.0E-12   N=1.02    RS=7.5m   EG=1.17    TT=43n)
Ra      4    2    15m TC=0.0087
Rs      3    5    1.0m
Ls      5    30   1.97n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL   INTER    NMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    413p
Rcgd    7    4    10meg
Dgd     6    4    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.56   CJO=413p   VJ=0.48)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS FQI20N06
*-------------------------------------------------------------------------------------
* FAIRCHILD PUCHUN S.KOREA     CASE: I2-PAK      PID: FQP20N06 
* 2000-03-25 CREATION